US08202856B2
1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)-N,N-dimethylmethanamine
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (100 mg; 0.24 mmol) and dimethylamine hydrochloride (39.5 mg; 0.48 mmol) to give Example 131 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.62 (2H, dd, J=4.5, 1.7 Hz), 7.84 (2H, d, J=8.1 Hz), 7.78 (1H, td, J=7.6, 1.7 Hz), 7.63-7.56 (1H, m), 7.48 (2H, dd, J=4.5, 1.7 Hz), 7.42-7.35 (4H, m), 3.38 (2H, s), 2.08 (6H, s). LC/MS (Method C): 442 (M+H)+. HPLC (Method E) Rt 2.14 min (Purity: 94.2%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | dimethylamine hydrochloride | 0.48 mmol, 39.5 mg | Cl.CNC
product | 1-(4-{5-[1-(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}phenyl)-N,N-dimethylmethanamine | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=C1)CN(C)C | C24H20FN7O
